US07449456B2
2-Fluoro-5-formylbenzonitrile was treated with sodium borohydride and dimethyl sulfate in THF to obtain 5-hydroxymethyl-2-fluorobenzylamine. F: 156.

reactant | 2-Fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | C1CCOC1 | C4H8O
product | 5-hydroxymethyl-2-fluorobenzylamine | OCC=1C=CC(=C(CN)C1)F | C8H10FNO
